US07501411B2
Step 4: 1-Isopropyl-4-(5-nitro-pyridin-2-yl)-piperazine
To a solution of 2-chloro-5-nitropyridine (2.5 g, 15.7 mmol) in THF (25 mL), are added 1-isopropylpiperazine (2.01 g, 15.7 mmol) and K2CO3 (3.25 g, 23.6 mmol). The reaction mixture is stirred at 50° C. for 4 hours and then at 70° C. overnight. The solvent is removed in vacuo and the resultant orange solid is triturated using 10:1 petroleum ether-diethyl ether. The isolated compound (3.7 g, 94%) is used in the next step without further purification.

reactant | 2-chloro-5-nitropyridine | 15.7 mmol, 2.5 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 1-isopropylpiperazine | 15.7 mmol, 2.01 g | C(C)(C)N1CCNCC1 | C7H16N2
reactant | K2CO3 | 23.6 mmol, 3.25 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 1-Isopropyl-4-(5-nitro-pyridin-2-yl)-piperazine | C(C)(C)N1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C12H18N4O2
